US06211223B1
(a) 5-Bromo-2-methoxy-4-methylbenzenesulfonic acid dihydrate
4-Bromo-3-methylanisole (500 g, 2.5 moles) was cautiously added dropwise over a period of 20-25 minutes to 98% sulfuric acid (1,600 ml) at ambient temperature (exothermic, temperature rise to 42-43° C.) and the reaction stirred for 16 hours. The reaction mixture was cautiously quenched onto cooled (0-5° C.) deionised water (7.5 liter) over a 2 hour period at a rate that maintained the temperature below 20° C. The precipitated product was granulated for 3 hours, filtered and dried to give the crude sulphonic acid (980 g). The crude product was recrystallised from ethyl acetate (2.94 liters, 3 ml/g) to give the subtitle compound (680 g, 86% yield) as a white crystalline solid (mp=131-133° C.)

reactant | 4-Bromo-3-methylanisole | 2.5 moles, 500 g | BrC1=C(C=C(C=C1)OC)C | C8H9BrO
reactant | sulfuric acid | 1,600 ml | S(O)(O)(=O)=O | H2O4S
product | 5-Bromo-2-methoxy-4-methylbenzenesulfonic acid dihydrate | 680 g, 86% yield | O.O.BrC=1C(=CC(=C(C1)S(=O)(=O)O)OC)C | InChI=1S/C8H9BrO4S.2H2O/c1-5-3-7(13-2)8(4-6(5)9)14(10,11)12;;/h3-4H,1-2H3,(H,10,11,12);2*1H2
